US06015697
Inosine (6 g/dl) and 15 g/dl of a tripolyphosphate, a polyphosphate ("Polygon P", a trade name for a product of Chiyoda Kagaku K.K.), disodium phenylacetate or disodium carbamylphosphate were dissolved in a 100-mM acetate buffer (pH 4.0). To this was added the above-mentioned strain such that the concentration reached 100 mg/dl in terms of the dry cell weight. The reaction was conducted at 35° C. for 12 hours while maintaining the pH at 4.0. The amount of 5'-inosinic acid formed was shown in Table 15. 5'-Inosinic acid was formed and accumulated at good efficiency with any of the phosphate donors. Especially when a polyphosphate was used as a phosphate donor, 5'-inosinic acid was accumulated in the largest amount.

reactant | Inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | tripolyphosphate | [O-]P(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-]
reactant | disodium phenylacetate | C1(=CC=CC=C1)CC(=O)[O-].[Na+].[Na+].C1(=CC=CC=C1)CC(=O)[O-]
reactant | disodium carbamylphosphate | C(N)(=O)OP(=O)([O-])[O-].[Na+].[Na+]
solvent | acetate | 100-mM, pH 4.0 | C(C)(=O)[O-]
product | 5'-inosinic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(O)=NC=NC12 | C10H13N4O8P
